US04394515
10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide
780 Mg. 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin 5-oxide is refluxed for four hours in a mixture of 50 cc. 10% aqueous sodium hydroxide and 50 cc. ethanol. The reaction mixture is diluted with water, acidified with hydrochloric acid, filtered and dried under vacuum in the oven at 70° C. The solid is recrystallized from a mixture of dimethylformamide and methanol to yield 360 mg. of the pure acid, m.p. 273° C. dec.

reactant | 3-cyano-10,11-dihydro-11-oxodibenzo[b,f]thiepin 5-oxide | C(#N)C=1C=CC2=C(S(C3=C(CC2=O)C=CC=C3)=O)C1 | C15H9NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | water | O | H2O
product | 10,11-Dihydro-11-oxodibenzo[b,f]thiepin-3-carboxylic Acid 5-oxide | O=C1C2=C(S(C3=C(C1)C=CC=C3)=O)C=C(C=C2)C(=O)O | C15H10O4S
